US07166607B2
i) 3-[(4-chlorophenyl)thio]-2,5-dimethyl-1H-indole-4-carbonitrile
A stirred solution of 1-[(4-chlorophenyl)thio]-acetone (6.14 g) in dry dichloromethane (150 ml) at −78° C. was treated with sulphuryl chloride (2.25 ml). After 30 min a prepared solution of N,N,N′,N′-tetramethyl-1,8-naphthalenediamine (6.01 g) and 5-amino-2-chloro-benzonitrile (3.89 g) in dry dicholoromethane (80 ml) was added dropwise over 30 min. The mixture was stirred for a further 2 hours, after which triethylamine (4.26 ml) was added and the reaction allowed to reach room temperature. The reaction mixture was diluted with dichloromethane (200 ml), washed with water, 1N HCl and brine. The organic phase was dried (MgSO4), evaporated in vacuo, and the residue purified by flash column chromatography eluting with iso-hexane and ethyl acetate (1:1) to give the sub-title compound (1 g).

reactant | 1-[(4-chlorophenyl)thio]-acetone | 6.14 g | ClC1=CC=C(C=C1)SCC(=O)C | C9H9ClOS
reactant | sulphuryl chloride | 2.25 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | N,N,N′,N′-tetramethyl-1,8-naphthalenediamine | 6.01 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 5-amino-2-chloro-benzonitrile | 3.89 g | NC=1C=CC(=C(C#N)C1)Cl | C7H5ClN2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | triethylamine | 4.26 ml | C(C)N(CC)CC | C6H15N
product | 3-[(4-chlorophenyl)thio]-2,5-dimethyl-1H-indole-4-carbonitrile | 1 g | ClC1=CC=C(C=C1)SC1=C(NC=2C=CC(=C(C12)C#N)C)C | C17H13ClN2S
